US07723332B2
According to general procedure B, 4-bromo-N-tert-butyl-2-(trifluoromethoxy)benzenesulfonamide (225 mg, 0.59 mmol), 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid (107 mg, 0.71 mmol), potassium fluoride (113 mg, 1.95 mmol), and tris(dibenzylideneacetone)dipalladium(0) (15 mg, 0.01 mmol) were placed in an oven dried flask under nitrogen and dry THF (1.4 mL) was added. Tri-t-butylphosphine (89 μL, 0.02 mmol, 10 wt % in hexane) was added and the reaction was stirred for 16 hours. N-tert-butyl-4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2-(trifluoromethoxy)benzenesulfonamide (44 mg, 19%) was provided after purification. MS (ESI) m/z 401. HPLC purity 99.0% at 210-370 nm, 10.1 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-bromo-N-tert-butyl-2-(trifluoromethoxy)benzenesulfonamide | 0.59 mmol, 225 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NC(C)(C)C)OC(F)(F)F | C11H13BrF3NO3S
reactant | 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid | 0.71 mmol, 107 mg | C(#N)C1=CC=C(N1C)B(O)O | C6H7BN2O2
reactant | potassium fluoride | 1.95 mmol, 113 mg | [F-].[K+]
reactant | Tri-t-butylphosphine | 0.02 mmol, 89 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-tert-butyl-4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2-(trifluoromethoxy)benzenesulfonamide | 44 mg, 19% | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C=C1)C=1N(C(=CC1)C#N)C)OC(F)(F)F | C17H18F3N3O3S
